US06174881B1
Manufacture of 2-chloro-4-(2-fluoro-phenyl)-8.9-dihydro-6H-imidazo[1,2-a]thieno[3,2-f][1,4]diazepine-8-methanol
37.2 g of 2.5N sodium hydroxide solution were added at 60° C. to a suspension of the reaction mixture (RS)-2-chloro-8-chloromethyl-4-(2-fluoro-phenyl)-8,9-dihydro-6H-imidazo[1,2-a]thieno[3,2-f][1,4]diazepin-8-ol obtained in accordance with paragraph e) and stirred under argon for 21 h., subsequently two 18.7 g portions of 2.5N sodium hydroxide solution were added at intervals of two hours and the mixture was stirred for 2 h. The suspension was extracted with sodium chloride solution saturated with dichloro methane in the presence of a small amount of methanol. The dichloromethane extracts were dried with sodium sulphate, filtered and evaporated to dryness in a vacuum. After crystallization of the residue from 5% methanol in dichloromethane 3.3 g of the starting product of step e) were recovered. The mother liquors were evaporated to dryness in a vacuum and the residue was chromatographed on 800 g of silica gel. With 5% methanol in dichloromethane there were eluted 1.5 g of 2-chloro-4-(2-fluoro-phenyl)-8,9-dihydro-6 6H-imidazo[1,2-a]thieno-[3,2-f][1,4]diazepine-8-methanol which was used without further purification as the starting product for the step described below.

reactant | sodium hydroxide | 2.5N, 37.2 g | [OH-].[Na+]
reactant | (RS)-2-chloro-8-chloromethyl-4-(2-fluoro-phenyl)-8,9-dihydro-6H-imidazo[1,2-a]thieno[3,2-f][1,4]diazepin-8-ol | ClC1=CC=2C(=NCC=3N(C2S1)CC(N3)(O)CCl)C3=C(C=CC=C3)F | C16H12Cl2FN3OS
reactant | sodium hydroxide | 2.5N | [OH-].[Na+]
product | 2-chloro-4-(2-fluoro-phenyl)-8.9-dihydro-6H-imidazo[1,2-a]thieno[3,2-f][1,4]diazepine-8-methanol | ClC1=CC=2C(=NCC=3N(C2S1)CC(N3)CO)C3=C(C=CC=C3)F | C16H13ClFN3OS
